US07544702B2
2,4-Dichloro-N-{6-methyl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide (65)
Prepared from 2-amino-5-bromo-6-methylpyridine and 4-(N-piperidinylsulfonyl)thiophenol according to General Method 11 step 1 followed by reaction with 2,4-dichlorophenylsulfonyl chloride according to General Method 11 step 2. 1H NMR (CDCl3): 8.24, 7.76, 7.72, 7.51, 7.19, 7.05 (1H, 1H, 2H, 1H, 1H, 2H, 1H, 7×d, J 9, 11, 9, 11, 10, 9 Hz, Ar CH's), 7.63 (1H, s, A-ring CH ortho to 2×Cl), 3.10-3.01 (4H, m, CH2NCH2), 2.58 (3H, s, CH3), 1.76-1.68 (4H, m, CH2CH2CH2CH2CH2), 1.58-1.47 (2H, m, CH2CH2CH2CH2CH2). Hplc (Luna 2, Gradient 5): rt=6.40 minutes. LC/MS rt=7.11 minutes, 572/574 (MH+).

reactant | 2-amino-5-bromo-6-methylpyridine | NC1=NC(=C(C=C1)Br)C | C6H7BrN2
reactant | 4-(N-piperidinylsulfonyl)thiophenol | N1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)S | C11H15NO2S2
reactant | 2,4-dichlorophenylsulfonyl chloride | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,4-Dichloro-N-{6-methyl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NC1=NC(=C(C=C1)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1)C | C23H23Cl2N3O4S3
